US03996376
A sample of 12 grams (0.05 mols) of 2,2-bis(trifluoromethyl)-4-hydroxymethyl-1,3-dioxolane in 50 ml toluene is treated with 1.93 grams sodium hydride - mineral oil (53.4%, 0.043 mols) at 25°-33° C. The sodium salt is stirred for 2 hours at 35° C. Benzhydryl bromide, 10.6 grams, (0.043 mols) is added at 37° C. and then the temperature is raised to 75°-95° C. for 3 hours. The mixture is filtered and the filtrate washed with water. Vacuum-stripping gives an oil which is dissolved in methanol and clarified by filtration through Super Cel. Yield of product is 17.0 grams at this point. A forerun is distilled in a 4 inch column filled with stainless steel packing, the remainder without packed column. The product obtained is distilled at 137° C. under 0.45 mm of mercury pressure to yield 2,2-bis(trifluoromethyl)-4-diphenylmethoxymethyl-1,3-dioxolane.

reactant | 2,2-bis(trifluoromethyl)-4-hydroxymethyl-1,3-dioxolane | 0.05 mols, 12 grams | FC(C1(OCC(O1)CO)C(F)(F)F)(F)F | C6H6F6O3
reactant | sodium hydride | 1.93 grams | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | Benzhydryl bromide | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 2,2-bis(trifluoromethyl)-4-diphenylmethoxymethyl-1,3-dioxolane | FC(C1(OCC(O1)COC(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)(F)F | C19H16F6O3
